US08044075B2
To a 20 ml scintillation vial was added EDC (54 mg, 0.283 mmol), HOAt (38 mg, 0.283 mmol) and commercially available 5-(4-fluorophenyl)-1,3,4-thiadiazol-2-amine (55 mg, 0.283 mmol). To this was added 5-[(ethylamino)sulfonyl]-2,3-difluorobenzoic acid as a solution in 2 ml DMF (75 mg, 0.283 mmol based on theoretical yield of preceding). The reaction mixture was stirred at room temperature overnight with a Teflon covered magnetic stir-bar. The reaction mixture was then concentrated to ˜1 ml and the residue was purified using a Gilson preparative HPLC system with a Waters Xterra (C-18) column 100 mm by 50 mm ID, eluting with 30% B to 60% B in 10 min, where A=H2O and B=CH3CN pumped at 150 mL/min to yield 5-[(Ethylamino)sulfonyl]-2,3-difluoro-N-[5-(4-fluorophenyl)-1,3,4-thiadiazol-2-yl]benzamide as a white solid (12 mg, 19%).

reactant | EDC | 0.283 mmol, 54 mg
reactant | HOAt | 0.283 mmol, 38 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 5-(4-fluorophenyl)-1,3,4-thiadiazol-2-amine | 0.283 mmol, 55 mg | FC1=CC=C(C=C1)C1=NN=C(S1)N | C8H6FN3S
reactant | 5-[(ethylamino)sulfonyl]-2,3-difluorobenzoic acid | C(C)NS(=O)(=O)C=1C=C(C(=C(C(=O)O)C1)F)F | C9H9F2NO4S
reactant | DMF | 0.283 mmol, 2 ml, 75 mg | CN(C)C=O | C3H7NO
product | 5-[(Ethylamino)sulfonyl]-2,3-difluoro-N-[5-(4-fluorophenyl)-1,3,4-thiadiazol-2-yl]benzamide | 12 mg, 19% | C(C)NS(=O)(=O)C=1C=C(C(=C(C(=O)NC=2SC(=NN2)C2=CC=C(C=C2)F)C1)F)F | C17H13F3N4O3S2
